US08278301B2
To a solution of (S)—N-(1-azabicyclo[2.2.2]oct-3-yl)-2-(cyclopropylmethyl)benzoxazole-4-carboxamide (94 mg, 0.29 mmol) in methanol (0.5 mL) was added a solution of HCl in diethyl ether (1 N, 0.32 mL, 0.34 mmol) at 0° C. slowly. The reaction mixture was diluted with diethyl ether. The resulting solid was filtered and washed with diethyl ether to afford (S)—N-(1-azabicyclo[2.2.2]oct-3-yl)-2-(cyclopropylmethyl)benzoxazole-4-carboxamide hydrochloride (81 mg, 77%) as a white solid: 1H NMR (500 MHz, DMSO-d6) δ 10.12 (br s, 1H), 9.36 (d, J=6.6 Hz, 1H), 7.97 (d, J=8.1 Hz, 2H), 7.46 (t, J=7.9 Hz, 1H), 4.45-4.38 (m, 1H), 3.80-3.47 (m, 1H), 3.28-3.22 (m, 2H), 3.15 (dd, J=14.0, 4.5 Hz, 1H), 3.00 (d, J=7.0 Hz, 2H), 2.30-2.16 (m, 2H), 2.00-1.90 (m, 3H), 1.61 (s, 3H), 1.48-1.40 (m, 2H), 1.20-1.15 (m, 2H); MS (ESI+) m/z 326 (M+H); HPLC >99% (AUC), tR=11.65 min.

reactant | (S)—N-(1-azabicyclo[2.2.2]oct-3-yl)-2-(cyclopropylmethyl)benzoxazole-4-carboxamide | 0.29 mmol, 94 mg | N12C[C@H](C(CC1)CC2)NC(=O)C=2C=CC=C1C2N=C(O1)CC1CC1 | C19H23N3O2
reactant | HCl | Cl | ClH
solvent | methanol | 0.5 mL | CO | CH4O
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | diethyl ether | 0.34 mmol, 1 N, 0.32 mL | C(C)OCC | C4H10O
product | (S)—N-(1-azabicyclo[2.2.2]oct-3-yl)-2-(cyclopropylmethyl)benzoxazole-4-carboxamide hydrochloride | 81 mg, 77% | Cl.N12C[C@H](C(CC1)CC2)NC(=O)C=2C=CC=C1C2N=C(O1)CC1CC1 | InChI=1S/C19H23N3O2.ClH/c23-19(20-15-11-22-8-6-13(15)7-9-22)14-2-1-3-16-18(14)21-17(24-16)10-12-4-5-12;/h1-3,12-13,15H,4-11H2,(H,20,23);1H/t15-;/m1./s1
